US07652015B2
4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Place 4-(5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.14 g, 3.70 mmol) in 1:1 EtOAc:MeOH (20 mL). Add 10% Pd on carbon using EtOAc (5 mL). Purge the reaction and then add hydrogen. Repeat the purge/fill cycle twice and place the reaction under a balloon of hydrogen and stir at room temperature for 20 hours. Filter the reaction through a pad of Celite® and wash the filter cake with EtOAc. Collect the filtrate and concentrate under reduced pressure to yield 1.01 g (98%) of the title compound. MS(ES): m/z=279 [M+H].

reactant | 4-(5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 3.70 mmol, 1.14 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C14H20N4O4
reactant | MeOH | 20 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | [Pd] | Pd
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.01 g, 98% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)N | C14H22N4O2
